US09233961B2
4-Fluoro-N-methyl-3-(6-{4-[2-(morpholin-4-yl)ethoxy]phenyl}-[1,3]oxazolo[4,5-b]pyridin-2-yl)aniline
In a 40 ml vial 4-fluoro-3-(6-(4-(2-morpholinoethoxy)phenyl)oxazolo[4,5-b]pyridin-2-yl)aniline I-23 (15 mg, 0.032 mmol, 1.0 eq.) was dissolved in DCE. Paraformadelhyde (30 mg) followed by sodium acetate (2.62 mg, 0.032 mmol, 1.0 eq) was added and reaction was heated for one hour. Sodium triacetoxy borohydride (16 mg, 0.08 mmol, 2.5 eq) was added and the reaction was heated to 80° C. for 4 hours. LCMS indicated that the reaction was complete with a formation of new peak of desired mass 449.2 (M+1). The reaction was concentrated under reduced pressure. The crude reaction was dissolved in DMF and filtered through a frit funnel to remove the insoluble matter. The clear filtrate by purified by HPLC to get the desired product 4-fluoro-N-methyl-3-(6-(4-(2-morpholinoethoxy)phenyl)oxazolo[4,5-b]pyridin-2-yl)aniline (Example 421). The TFA salt was neutralized by passing a methanolic solution of the compound through a bicarbonate resin. MS M/Z=449.2 (M+1). RT=1.33: Method B.

reactant | 4-fluoro-3-(6-(4-(2-morpholinoethoxy)phenyl)oxazolo[4,5-b]pyridin-2-yl)aniline | 40 ml | FC1=C(C=C(N)C=C1)C=1OC=2C(=NC=C(C2)C2=CC=C(C=C2)OCCN2CCOCC2)N1 | C24H23FN4O3
reactant | sodium acetate | 0.032 mmol, 2.62 mg, 1.0 eq | C(C)(=O)[O-].[Na+]
reactant | Sodium triacetoxy borohydride | 0.08 mmol, 16 mg, 2.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | ClCCCl | C2H4Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-fluoro-N-methyl-3-(6-(4-(2-morpholinoethoxy)phenyl)oxazolo[4,5-b]pyridin-2-yl)aniline | FC1=C(C=C(NC)C=C1)C=1OC=2C(=NC=C(C2)C2=CC=C(C=C2)OCCN2CCOCC2)N1 | C25H25FN4O3
